US04230719
To a solution of 34 g of 2-(4-iodophenyl)propionaldehyde in 100 ml of ethylene chloride was added a solution of 16.5 g of sulfamic acid in 85 ml of water. To the mixture was added dropwise with stirring a solution of 15.2 g of sodium chlorite in 22 ml of water, while maintaining the temperature at 10° to 15° C. After stirring for 10 minutes, about 15 g of sodium hydrogensulfite was added in small portions to the mixture. The organic layer was separated, washed with water, and mixed with 150 ml of 1 N sodium hydroxide solution. The aqueous layer was separated and adjusted to pH 3.0 with 6 N hydrochloric acid to precipitate white crystals. The crystals were collected by filtration, washed with water, and dried to obtain 34 g (94% yield) of 2-(4-iodophenyl)propionic acid.

reactant | 2-(4-iodophenyl)propionaldehyde | 34 g | IC1=CC=C(C=C1)C(C=O)C | C9H9IO
reactant | sulfamic acid | 16.5 g | S(N)(O)(=O)=O | H3NO3S
reactant | sodium chlorite | 15.2 g | Cl(=O)[O-].[Na+]
reactant | sodium hydrogensulfite | about 15 g | S(=O)(O)[O-].[Na+]
solvent | ethylene chloride | 100 ml | C(CCl)Cl | C2H4Cl2
solvent | water | 85 ml | O | H2O
solvent | water | 22 ml | O | H2O
product | 2-(4-iodophenyl)propionic acid | 34 g, 94% yield | IC1=CC=C(C=C1)C(C(=O)O)C | C9H9IO2
